US08334287B2
4-[4-(3-Methoxy-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1H-pyridin-2-one
The title compound, light brown solid, MS: m/e=320.1 (M+H+), was prepared in accordance with the general method of example 1c from 4-(4-iodo-2,5-dimethyl-imidazol-1-yl)-1-methyl-1H-pyridin-2-one and 1-Ethynyl-3-methoxy-benzene.

reactant | 4-(4-iodo-2,5-dimethyl-imidazol-1-yl)-1-methyl-1H-pyridin-2-one | IC=1N=C(N(C1C)C1=CC(N(C=C1)C)=O)C | C11H12IN3O
reactant | 1-Ethynyl-3-methoxy-benzene | C(#C)C1=CC(=CC=C1)OC | C9H8O
product | 4-[4-(3-Methoxy-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1H-pyridin-2-one | COC=1C=C(C=CC1)C#CC=1N=C(N(C1C)C1=CC(NC=C1)=O)C | C19H17N3O2
